US06034239
(S)-N-[2-(6-hydroxy-7-(2-hydroxyethyl)indan-1-yl)ethyl]propionamide
A methanol suspension of (S)-N-[2-(5-bromo-6-hydroxy-7-(2-hydroxyethyl)indan-1-yl)ethyl]propionamide (590 mg, 1.66 mmol.), triethylamine (184 mg, 1.82 mmol.) and 5% palladium-carbon (100 mg) was subjected to catalytic reduction under hydrogen atmosphere. At the time when the calculated volume of hydrogen was absorbed, the catalyst was filtered off. The filtrate was made weakly acidic with dilute hydrochloric acid, followed by extracting the organic matter with a mixture of ethyl acetate:butanol=1:1. The extract solution was dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure, followed by washing with diethyl ether to afford the title compound (yield 0.42 g, 91%).

reactant | (S)-N-[2-(5-bromo-6-hydroxy-7-(2-hydroxyethyl)indan-1-yl)ethyl]propionamide | 1.66 mmol, 590 mg | BrC=1C=C2CC[C@H](C2=C(C1O)CCO)CCNC(CC)=O | C16H22BrNO3
reactant | triethylamine | 1.82 mmol, 184 mg | C(C)N(CC)CC | C6H15N
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | methanol | CO | CH4O
product | (S)-N-[2-(6-hydroxy-7-(2-hydroxyethyl)indan-1-yl)ethyl]propionamide | yield 0.42 g, 91% | OC1=CC=C2CC[C@H](C2=C1CCO)CCNC(CC)=O | C16H23NO3
